US09029393B2
6-Fluoro-imidazo[1,2-a]pyridine
To a solution of 2-amino-5-fluoropyridine (10 g) in ethanol (200 mL), a solution of chloroacetaldehyde 50% in water (56 mL, 4.0 equiv.) was added. The reaction mixture was heated at reflux 2 Hrs, then was concentrated under reduced pressure to 100 mL. The residue was diluted in AcOEt (100 mL) and washed with a saturated aqueous solution of NaHCO3 (2*150 mL). The combined aqueous were saturated with NaHCO3 and extracted back with AcOEt (2*100 mL). The combined organic layers were washed with brine (100 mL), dried over Na2SO4 and concentrated under reduced pressure.

reactant | 2-amino-5-fluoropyridine | 10 g | NC1=NC=C(C=C1)F | C5H5FN2
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | water | 56 mL, 4.0 equiv. | O | H2O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 6-Fluoro-imidazo[1,2-a]pyridine | FC=1C=CC=2N(C1)C=CN2 | C7H5FN2
